US05700805
1-Amino-3-(4-chloro-2-fluoro-3-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (Tab. 1, No. 1.05)
Potassium carbonate (132 g) and 2,4-dinitrophenoxyamine (104 g) were added to a solution of 3-(4-chloro-2-fluoro-3-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (175 g) in 1 l of ethyl acetate, after which the reaction mixture was stirred for 10 hours at 50° C. and then cooled. The resulting solid portion was separated off and washed with diisopropyl ether. After combining the clear reaction solution and the ether phase, the mixture was washed once with water, dried over sodium sulfate and concentrated. The crude product was recrystallized from 200 ml of diisopropyl ether. Yield: 150 g.

reactant | Potassium carbonate | 132 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dinitrophenoxyamine | 104 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
reactant | 3-(4-chloro-2-fluoro-3-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 175 g | ClC1=C(C(=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)F)C=NOC | C13H8ClF4N3O3
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
product | 1-Amino-3-(4-chloro-2-fluoro-3-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | NN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C(=C(C=C1)Cl)C=NOC)F)=O | C13H9ClF4N4O3
